US05723479
A mixture of 6-(5-methyl-2-phenyl-4-oxazolylmethoxy) benzofuran-2-methanol (21.0 g), activated manganese dioxide (52.0 g) and tetrahydrofuran (800 ml) was stirred at 60° to 65° C. for 6 hours. After the insoluble portion was filtered off, the filtrate was concentrated; the residue was subjected to silica gel column chromatography. From the fraction eluted with ethyl acetate-chloroform (2:98, v/v), crystals of 6-(5-methyl-2-phenyl-4-oxazolylmethoxy) benzofuran-2-carbaldehyde (14.3 g, 69%) were obtained, which was then recrystallized from dichloromethane-isopropyl propyl ether to yield colorless prisms having a melting point of 137° to 138° C.

reactant | 6-(5-methyl-2-phenyl-4-oxazolylmethoxy) benzofuran-2-methanol | 21.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C=C(O2)CO)C=C1 | C20H17NO4
catalyst | manganese dioxide | 52.0 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 6-(5-methyl-2-phenyl-4-oxazolylmethoxy) benzofuran-2-carbaldehyde | 14.3 g, 69% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C=C(O2)C=O)C=C1 | C20H15NO4
